US06136837
To 3.05 g (10 mmol) of 5-[2-(1-ethoxyethyl)oxymethyl-α-methoxybenzyl]-3-methylisoxazole was added 0.25 g (1 mmol) of pyridinium p-toluenesulfonate and stirred under reflux for an hour. After completion of the reaction, 150 ml of brine was added and extracted twice with 80 ml of dichloromethane. The extract was dried over anhydrous magnesium and concentrated under reduced pressure to give 5-(2-hydroxymethyl-α-methoxybenzyl)-3-methylisoxazole (2.33 g, 99.9%) as colorless oil.

reactant | 5-[2-(1-ethoxyethyl)oxymethyl-α-methoxybenzyl]-3-methylisoxazole | 10 mmol, 3.05 g | C(C)OC(C)OCC1=C(C(OC)C2=CC(=NO2)C)C=CC=C1 | C17H23NO4
reactant | pyridinium p-toluenesulfonate | 1 mmol, 0.25 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | brine | 150 ml | [Cl-].[Na+].O
product | 5-(2-hydroxymethyl-α-methoxybenzyl)-3-methylisoxazole | 2.33 g, 99.9% | OCC1=C(C(OC)C2=CC(=NO2)C)C=CC=C1 | C13H15NO3
